US04021479
4-(3',4'-Difluoro-4-biphenylyl)-4-hydroxy-butyric acid
Prepared analogous to Example 46 from the morpholine salt of 4-(3',4'-difluoro-4-biphenylyl)-4-hydroxy-crotonic acid in methanol. Melting point of the cyclohexylamine salt: 170°-171° C. (from water). Yield: 44% of theory.

reactant | morpholine | N1CCOCC1 | C4H9NO
reactant | 4-(3',4'-difluoro-4-biphenylyl)-4-hydroxy-crotonic acid | FC=1C=C(C=CC1F)C1=CC=C(C=C1)C(/C=C/C(=O)O)O | C16H12F2O3
reactant | cyclohexylamine | C1(CCCCC1)N | C6H13N
reactant | water | O | H2O
solvent | methanol | CO | CH4O
product | 4-(3',4'-Difluoro-4-biphenylyl)-4-hydroxy-butyric acid | Yield: 44% | FC=1C=C(C=CC1F)C1=CC=C(C=C1)C(CCC(=O)O)O | C16H14F2O3
